US06060478
B. 5-Amino-4-(2,4-dimethylphenyl)-3-methylpyrazole
A mixture of 1-cyano-1-(2,4-dimethylphenyl)propan-2-one (43.8 g, 0.23 mol), hydrazine-hydrate (22 mL, 0.46 mol), glacial acetic acid (45 mL, 0.78 mol) and toluene (500 mL) were stirred at reflux temperature for 18 hours in an apparatus fitted with a Dean-Stark trap. The reaction mixture was cooled to ambient temperature and solvent was removed in vacuo. The residue was dissolved in 6N HCl and the resulting solution was extracted with ether three times. A concentrated ammonium hydroxide solution was added to the aqueous layer until pH=11. The resulting semi-solution was extracted three times with ethyl acetate. The combined organic layers were dried over MgSO4 and filtered. Solvent was removed in vacuo to give a pale brown viscous oil (34.6 g, 75% yield): NMR (CDCl3, 300 MHz): 7.10 (s, 1H), 7.05 (d, 2H, J=1), 2.37 (s, 3H), 2.10 (s, 3H); CI-MS: 202 (M+H).

reactant | 1-cyano-1-(2,4-dimethylphenyl)propan-2-one | 0.23 mol, 43.8 g | C(#N)C(C(C)=O)C1=C(C=C(C=C1)C)C | C12H13NO
reactant | hydrazine-hydrate | 0.46 mol, 22 mL | O.NN
reactant | acetic acid | 0.78 mol, 45 mL | C(C)(=O)O | C2H4O2
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | 5-Amino-4-(2,4-dimethylphenyl)-3-methylpyrazole | 34.6 g, 75% yield | NC1=C(C(=NN1)C)C1=C(C=C(C=C1)C)C | C12H15N3
